US04124639
4-Ethyl-N-(1-ethylpropyl)-m-toluidine
A mixture of 4-ethyl-m-toluidine (20.2 g.), 3-pentanone (38.7 g.), 2-naphthylsulfonic acid (0.7 g.) and 5% Pt/C (1.9 g.) was hydrogenated in a Parr apparatus. After removal of the catalyst, the filtrate was diluted with ether, washed with dilute base and water, dried, and stripped to give the product in 98% purity (glc).

reactant | 4-ethyl-m-toluidine | 20.2 g | C(C)C1=C(C=C(N)C=C1)C | C9H13N
reactant | 2-naphthylsulfonic acid | 0.7 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)O | C10H8O3S
catalyst | Pt/C | 1.9 g | [Pt] | Pt
solvent | 3-pentanone | 38.7 g | CCC(CC)=O | C5H10O
product | 4-Ethyl-N-(1-ethylpropyl)-m-toluidine | C(C)C1=C(C=C(NC(CC)CC)C=C1)C | C14H23N
